US06407235B1
3-Chloromethyl-benzoic Acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl Ester
The title compound was prepared from (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol and 3-chlormethylbenzoylchloride in 80% yield as a colorless solid.

reactant | (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O)O | C20H25NO4S
reactant | 3-chlormethylbenzoylchloride | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
product | 3-Chloromethyl-benzoic Acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl Ester | 80% yield | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(C1=CC(=CC=C1)CCl)=O)O | C28H30ClNO5S
